US09447114B2
1-(3-chlorophenyl)-3-(4-chlorophenyl)prop-2-en-1-one (1.38 g, 5 mmol), Zn dust (1.95 g, 30 mmol), NH4Cl (2.67 g, 50 mmol) were combined in MeOH (10 mL) and water (5 mL). The reaction was refluxed for 4 h, cooled to RT then filtered. The filtrate was concentrated to a residue which was purified by chromatography PE/EA (5:1) to give 1-(3-chlorophenyl)-3-(4-chlorophenyl)propan-1-one (1.15 g, 83% yield) as a brown solid. MH+ 279 and TR=2.025 min.

reactant | 1-(3-chlorophenyl)-3-(4-chlorophenyl)prop-2-en-1-one | 5 mmol, 1.38 g | ClC=1C=C(C=CC1)C(C=CC1=CC=C(C=C1)Cl)=O | C15H10Cl2O
reactant | NH4Cl | 50 mmol, 2.67 g | [NH4+].[Cl-]
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
catalyst | Zn | 30 mmol, 1.95 g | [Zn] | Zn
product | 1-(3-chlorophenyl)-3-(4-chlorophenyl)propan-1-one | 1.15 g, 83% yield | ClC=1C=C(C=CC1)C(CCC1=CC=C(C=C1)Cl)=O | C15H12Cl2O
